US07087605B2
N-[1-(3-Cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide
In analogy to the procedure for Example 36A, 200 mg (0.90 mmol) 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one, 110 mg (0.90 mmol) cyclobutanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one | 0.90 mmol, 200 mg | NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C11H18N4O
reactant | cyclobutanecarbonyl chloride | 0.90 mmol, 110 mg | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-[1-(3-Cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclobutanecarboxamide | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCC1 | C16H24N4O2
